US07186715B2
Step 2: 1-[2-(1-Benzhydryl-azetidin-3-yloxy)-phenyl]-piperazine
1-Benzhydryl-3-(2-bromo-phenoxy)-azetidine (3.6 g, 9.16 mmol), piperazine (946 mg, 11 mmol), BINAP (427 mg, 1.38 mmol), Pd2dba3 (410 mg, 0.46 mmol) and sodium tert-butoxide (1.23 g, 12.8 mmol) were dissolved into toluene (100 mL). The solution was degassed under vacuum and bubbled with nitrogen. The vessel was sealed under nitrogen and heated to 90° C. for about 24 hours. Diethyl ether (500 ml) was added, and the solution was filtered through a bed of celite. The solution was concentrated to an orange oil. Purification by silica gel chromatography [1% NH3 in methanol/ethyl acetate (1 L), 5% NH3 in methanol/ethyl acetate (1 L), and 10% NH3 in methanol/ethyl acetate (1L)] gave the title compound as an orange powder (2.0 g, 65%).

reactant | 1-Benzhydryl-3-(2-bromo-phenoxy)-azetidine | 9.16 mmol, 3.6 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)OC1=C(C=CC=C1)Br | C22H20BrNO
reactant | piperazine | 11 mmol, 946 mg | N1CCNCC1 | C4H10N2
reactant | BINAP | 1.38 mmol, 427 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | sodium tert-butoxide | 12.8 mmol, 1.23 g | CC(C)([O-])C.[Na+]
catalyst | Pd2dba3 | 0.46 mmol, 410 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 1-[2-(1-Benzhydryl-azetidin-3-yloxy)-phenyl]-piperazine | 2.0 g, 65% | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)OC1=C(C=CC=C1)N1CCNCC1 | C26H29N3O
